US07205306B2
3-(5-Bromo-7-chloro-2,3-dihydro-1H-indol-1-yl)-5-chloro-1-[(1S)-1-(methoxymethyl)propyl]-2(1H)-pyrazinone
Prepared in a similar fashion as described for Example 413 using 3,5-dichloro-1-[(1S)-1-(methoxymethyl)propyl]-2(1H)-pyrazinone and 5-bromo-7-chloroindoline as the starting materials. mp 121–122° C.; 1H NMR (300 MHz, CDCl3): δ 7.24 (s, 1 H), 7.18 (s, 1 H), 6.99 (s, 1 H), 4.90–4.80 (m, 1 H), 4.26 (t, J=8.1 Hz, 2 H), 3.60 (dd, J=10.2, 5.5 Hz, 1 H), 3.49 (dd, J=10.6, 3.3 Hz, 1 H), 3.28 (s, 3 H), 3.06 (t, J=8.1 Hz, 2 H), 1.83–1.65 (m, 2 H), 0.86 (t, J=7.4 Hz, 3 H); HRMS (ESI) calcd for C17H19N3O2BrCl2 (M+H)+: 446.0038; Found m/z 446.0048.

reactant | 3,5-dichloro-1-[(1S)-1-(methoxymethyl)propyl]-2(1H)-pyrazinone | ClC=1C(N(C=C(N1)Cl)[C@@H](CC)COC)=O | C9H12Cl2N2O2
reactant | 5-bromo-7-chloroindoline | BrC=1C=C2CCNC2=C(C1)Cl | C8H7BrClN
product | 3-(5-Bromo-7-chloro-2,3-dihydro-1H-indol-1-yl)-5-chloro-1-[(1S)-1-(methoxymethyl)propyl]-2(1H)-pyrazinone | BrC=1C=C2CCN(C2=C(C1)Cl)C=1C(N(C=C(N1)Cl)[C@@H](CC)COC)=O | C17H18BrCl2N3O2
